### PR TITLE
[Merged by Bors] - feat: Port Data.Tree

### PR DESCRIPTION
**Pull request by casavaca**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Tree.lean [hunk 1]
```diff
@@ -0,0 +1,180 @@
...
+variable {α : Type u}
+
+/-- Construct a string representation of a tree. Provides a `hasRepr` instance. -/
+def repr [Repr α] : Tree α → String
+  | nil => "nil"
+  | node a t1 t2 => "Tree.node " ++ reprStr a ++ " (" ++ repr t1 ++ ") (" ++ repr t2 ++ ")"
+#align tree.repr Tree.repr
+
+instance [Repr α] : Repr (Tree α) :=
+  ⟨fun s _ => Tree.repr s⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Tree.lean:54]: `Repr` in Lean4 expects you to produce a `Std.Format`, not a `String`. I think it would make sense to change `repr` accordingly. @digama0: is it better to `#noalign`, or use the subscript `x`?

File: Mathlib/Data/Tree.lean [hunk 2]
```diff
@@ -0,0 +1,180 @@
...
+
+instance : Inhabited (Tree α) :=
+  ⟨nil⟩
+
+open Lean (RBNode)
+
+-- Porting note: In Lean 4 RBNode's definition is changed. In Lean 3 RBNode takes a value only.
```
Comment (eric-wieser) [inline Mathlib/Data/Tree.lean:61]: I think maybe this should be [`Std.RBNode`](https://leanprover-community.github.io/mathlib4_docs/Std/Data/RBMap/Basic.html#Std.RBNode) and not `Lean.RBNode`?

File: Mathlib/Data/Tree.lean [hunk 3]
```diff
@@ -0,0 +1,180 @@
...
+
+/-- Recursion on `Tree Unit`; allows for a better `induction` which does not have to worry
+  about the element of type `α = Unit` -/
+@[elab_as_elim]
+def unitRecOn {motive : Tree Unit → Sort _} (t : Tree Unit) (base : motive nil)
+    (ind : ∀ x y, motive x → motive y → motive (x △ y)) : motive t := by
+  -- Porting note: code generator does not support recursor 'Tree.recOn'
+  match t with
+  | nil => exact base
+  | node _a l r => exact ind l r (unitRecOn l base ind) (unitRecOn r base ind)
```
Comment (eric-wieser) [inline Mathlib/Data/Tree.lean:172]: Instead of making this change, can you copy the approach of `Nat.rec_eq_recC` for `Tree.recOn`?

File: Mathlib/Data/Tree.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Tree.lean:54]: It's also possible that `deriving Repr` will work.

File: Mathlib/Data/Tree.lean (hunk 2 above)
Comment (casavaca) [reply Mathlib/Data/Tree.lean]: Done.

File: Mathlib/Data/Tree.lean (hunk 1 above)
Comment (casavaca) [reply Mathlib/Data/Tree.lean]: Done

File: Mathlib/Data/Tree.lean (hunk 3 above)
Comment (casavaca) [reply Mathlib/Data/Tree.lean:170]: Tried

```lean
@[csimp]
lemma recOn_Unit_eq_recOnC : @Tree.recOn Unit = @Tree.recOnC := by
```

got

```
invalid 'csimp' theorem, only constant replacement theorems (e.g., `@f = @g`) are currently supported.
```

Comment (eric-wieser) [reply Mathlib/Data/Tree.lean:170]: The universe parameters have to be in exactly the same order for it to work

Comment (casavaca) [reply Mathlib/Data/Tree.lean:170]: I thought that it is because that this function is only for `Tree Unit` (`def unitRecOn {motive : Tree Unit → Sort _}`) while `csimp` only work on `@Tree.recOn = @...` but not `@Tree.recOn Unit = ...`?

Comment (eric-wieser) [reply Mathlib/Data/Tree.lean:170]: Oh, sorry; I meant that you should define recC in the general case, not just for Unit

Comment (casavaca) [reply Mathlib/Data/Tree.lean]: Done. Hopefully I did this right.

File: Mathlib/Data/Tree.lean [hunk 4]
```diff
@@ -131,48 +121,66 @@ theorem numLeaves_eq_numNodes_succ (x : Tree α) : x.numLeaves = x.numNodes + 1
...
+
+end recursor_workarounds
+
 @[elab_as_elim]
 def unitRecOn {motive : Tree Unit → Sort _} (t : Tree Unit) (base : motive nil)
     (ind : ∀ x y, motive x → motive y → motive (x △ y)) : motive t :=
-  t.recOn base fun u => u.recOn ind
-#align tree.unit_rec_on Tree.unitRecOn
+    t.recOn base fun _ => ind
+#noalign tree.unit_rec_on
```
Comment (eric-wieser) [inline Mathlib/Data/Tree.lean:179]: What's going on here?

File: Mathlib/Data/Tree.lean [hunk 5]
```diff
@@ -131,48 +121,66 @@ theorem numLeaves_eq_numNodes_succ (x : Tree α) : x.numLeaves = x.numNodes + 1
...
 
-theorem left_node_right_eq_self : ∀ {x : Tree Unit} (hx : x ≠ nil), x.left △ x.right = x
+theorem left_node_right_eq_self : ∀ {x : Tree Unit} (_hx : x ≠ nil), x.left △ x.right = x
   | nil, h => by trivial
-  | a △ b, _ => rfl
+  | node a l r, _ => rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Tree.lean:183]: This is unfortunate; are we sure that there isn't a way to keep the syntax in Lean 4?

File: Mathlib/Data/Tree.lean (hunk 4 above)
Comment (casavaca) [reply Mathlib/Data/Tree.lean:179]: Just like `Tree.recOn`, `PUnit.recOn` also not supported (`u` is a `PUnit`).

File: Mathlib/Data/Tree.lean (hunk 5 above)
Comment (casavaca) [reply Mathlib/Data/Tree.lean:183]: I don't know.

File: Mathlib/Data/Tree.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Tree.lean:179]: But why `noalign` it?

Comment (casavaca) [reply Mathlib/Data/Tree.lean:179]: My mistake. Will fix shortly.

Comment (casavaca) [reply Mathlib/Data/Tree.lean]: Done.

File: Mathlib/Data/Tree.lean [hunk 6]
```diff
@@ -0,0 +1,186 @@
...
+  | nil => rfl
+  | node a l r ihl ihr =>
+    rw [Tree.recOnC, ←ihl, ←ihr]
+
+end recursor_workarounds
+
+@[elab_as_elim]
+def unitRecOn {motive : Tree Unit → Sort _} (t : Tree Unit) (base : motive nil)
+    (ind : ∀ x y, motive x → motive y → motive (x △ y)) : motive t :=
+    t.recOn base fun _ => ind
```
Comment (eric-wieser) [inline Mathlib/Data/Tree.lean:178]: Can you add a porting note saying you removed `Unit.recOn` as structure eta makes it unnecessary?

Comment (casavaca) [reply Mathlib/Data/Tree.lean:180]: Done.

**Review by Parcly-Taxel — APPROVED** [review]

**Comment by eric-wieser** [comment]
bors merge

Thanks!
